US04536346
4-(p-Chlorocinnamamido)benzoic acid, ethyl ester
The 21.8 g. of p-chlorocinnamoyl chloride is dissolved in 250 ml. of dichloromethane. To this is added, with stirring, a solution of 35.7 g. of ethyl 4-aminobenzoate in 250 ml. of dichlormethane. The mixture is stirred overnight, then 300 ml. of water are added, stirring is continued for 30 minutes, and the solid is collected by filtration and dried. This solid is boiled in 600 ml. of ethanol and 100 ml. of chloroform, filtered, and the volume reduced to 450 ml., giving a solid, 15.0 g. of which is recrystallized from a mixture of 800 ml. of ethanol and 250 ml. of chloroform by boiling to a volume of 250 ml., giving 13.57 g. of the desired product as off-white crystals, m.p. 203°-204° C.

reactant | p-chlorocinnamoyl chloride | ClC1=CC=C(C=CC(=O)Cl)C=C1 | C9H6Cl2O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | water | O | H2O
product | 4-(p-Chlorocinnamamido)benzoic acid, ethyl ester | ClC1=CC=C(C=CC(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H16ClNO3
